US06727247B2
1,4-Dibenzyl-4-hydroxymethyl-piperidine
Was prepared from 1,4-dibenzyl-piperidine-4-carboxylic acid ethyl ester (J. Chem. Soc., Perkin Trans. 1 1996, 20, 2545-2551.) by lithium aluminium hydride reduction in tetrahydrofurane under standard conditions in 81% yield. MS 296(M+H+).

reactant | 1,4-dibenzyl-piperidine-4-carboxylic acid ethyl ester | C(C)OC(=O)C1(CCN(CC1)CC1=CC=CC=C1)CC1=CC=CC=C1 | C22H27NO2
reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofurane | O1CCCC1 | C4H8O
product | 1,4-Dibenzyl-4-hydroxymethyl-piperidine | 81% yield | C(C1=CC=CC=C1)N1CCC(CC1)(CO)CC1=CC=CC=C1 | C20H25NO
